US05942617
Triacetylguanosine (0.756 g, 1.85 mmols) was suspended in 6 ml of acetonitrile, and 0.28 ml (1.25 equivalents) of benzyl bromide and 0.27 ml (1.25 equivalents) of benzyl chloride were added to the suspension. The mixture was reacted at 50° C. for 24 hours and at 60° for 23 hours. The temperature was returned to room temperature, and 1.58 ml (10.1 equivalents) of conc. hydrochloric acid were added thereto. The resulting mixture was reacted for 3 hours. After 40 minutes of the reaction, the solid was precipitated. Fifteen milliliters of methanol were added thereto, and the slurry was stirred for 1.5 hours, and then filtered. The crystals were washed twice with 5 ml of methanol, and dried at 50° C. under reduced pressure for 4 hours to give 0.468 g of 7-benzylguanine crystals in a yield of 80.5%.

reactant | Triacetylguanosine | 1.85 mmols, 0.756 g | C(C)(=O)[C@@]1([C@]([C@@](O[C@@H]1CO)(N1C=NC=2C(=O)NC(N)=NC12)C(C)=O)(O)C(C)=O)O | C16H19N5O8
reactant | benzyl bromide | 0.28 ml, 1.25 equivalents | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl chloride | 0.27 ml, 1.25 equivalents | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | 1.58 ml, 10.1 equivalents | Cl | ClH
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 7-benzylguanine | 0.468 g, yield of 80.5% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N | C12H11N5O
